Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
right sided weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ unable to provide history as he is intubated and
sedated. History obtained from reviewing transfer records from
OSH and speaking with his wife. 

  Mr. ___ is a ___ y/o man with a PMH significant for stroke
___ years ago (reportedly affected L side of his body) and 
recent
diagnosis of lung cancer last week s/p thoracentesis who
presented to OSH with right hemiparesis. According to his wife,
he was in his usual state of health until ~11:45 ___, when he was
getting into bed and taking off his shirt, but then stopped with
his sleeves still on. He sat on the edge of the bed like this 
and
his wife asked what was wrong, but he did not respond. She then
came around to look at him and noted that his eyes were open, 
but
he remained unresponsive. He then reportedly laid himself back 
in
the bed and his wife called EMS. Based on reports from the OSH,
he had a right hemiparesis and was within window for tPA (I did
not see a NIHSS) so he received tPA at at 1:20 AM. After
receiving tPA, he was noted to become hypotensive, requiring
Dopamine for 10 minutes and had slowed respirations, resulting 
in
intubation. He did also receive Cerebyx 1 gram IV. He was then
transferred to ___ for further care. 
  Of note, he was placed on Plavix after his prior stroke. He 
was
taken off the Plavix last week prior to his thoracentesis (where
1300 cc fluid removed) and has remained off of it since at the
recomendation of his doctors. 

 
Past Medical History:
-stroke ___ years ago (affected L side of body)
-recent dx of lung cancer  
-neuropathy
-hypothyroidism
-HTN
-HLD
-colon cancer s/p resection and chemo ___ years ago) 

 
Social History:
___
Family History:
unknown; patient intubated and sedated

 
Physical Exam:
General: intubated, sedated  
HEENT: ET tube in place
Pulmonary: anterior lung fields cta b/l  
Cardiac: RRR, S1S2, no murmurs appreciated
Abdomen: soft, ND, +BS 
Extremities: no edema. no clubbing.   
Skin: no rashes or lesions noted. 
 
Neurologic: No eye opening. No commands. Pupils 2 mm and
minimally reactive. + Occulocephalics. + corneals. + cough/gag.
No spontaneous movements. Withdrew all extremities to noxious
stimuli except for right upper extremity, which did not move.
Unable to elicit any reflexes. Extensor plantar response b/l. 

 
Pertinent Results:
Laboratory data:
___ 02:03PM   ALT(SGPT)-21 AST(SGOT)-29 TOT BILI-0.8
___ 02:03PM   cTropnT-0.06*
___ 02:03PM   CHOLEST-167
___ 02:03PM   %HbA1c-5.9 eAG-123
___ 02:03PM   TRIGLYCER-171* HDL CHOL-41 CHOL/HDL-4.1 
LDL(CALC)-92
___ 02:03PM   TSH-2.1
___ 02:03PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:03PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD
___ 02:03PM URINE  RBC-77* WBC-22* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 02:03PM URINE  MUCOUS-RARE
___ 04:00AM   LACTATE-1.6
___ 03:50AM   GLUCOSE-236* UREA N-28* CREAT-1.5* SODIUM-134 
POTASSIUM-4.5 CHLORIDE-99 TOTAL CO2-25 ANION GAP-15
___ 03:50AM   estGFR-Using this
___ 03:50AM   cTropnT-0.05*
___ 03:50AM   proBNP-355
___ 03:50AM   WBC-12.1* RBC-3.71* HGB-12.6* HCT-35.2* 
MCV-95 MCH-33.8* MCHC-35.7* RDW-12.7
___ 03:50AM   NEUTS-89.1* LYMPHS-7.0* MONOS-2.4 EOS-1.0 
BASOS-0.4
___ 03:50AM   PLT COUNT-112*
___ 03:50AM   ___ PTT-26.2 ___
.
Imaging:
___   MR/A HEAD W & W/O CONTRAST:
1. Findings suggest both watershed and embolic infarcts, some 
with early 
hemorrhagic transformation, in both cerebral hemispheres and the 

infratentorial compartments, with te larger infarcts in the left 
middle and right posterior cerebral arterial territories, as 
described above. 
  
2. Evidence of reduced flow throughout the right PCA, but no 
flow-limiting 
stenosis, aneurysm or vascular malformation in the remainder of 
the 
intracranial vasculature. 
  
3. Up to 50-60% diameter stenosis, with post-stenotic 
dilatation, due to 
ulcerated plaques in the carotid bulbs and proximal internal 
carotid arteries, bilaterally; however, there is no 
flow-limiting or tandem stenosis involving either vessel as 
"substrate" for watershed infarction. 
  
4. Indeterminate nodules within the thyroid gland, which may be 
assessed by dedicated thyroid sonography on an elective basis 
(if one has not already been performed). 
   
___   CHEST (PORTABLE AP): 
As compared to the previous radiograph, there is no relevant 
change. Status post intubation. Unchanged position of the tube. 
Unchanged 
mild-to-moderate pulmonary edema, unchanged evidence of 
mediastinal and hilar left adenopathy as well as left upper lobe 
consolidation. No newly appeared focal parenchymal opacity. 
Presence of a minimal left pleural effusion cannot be excluded. 
    
___   CT HEAD W/O CONTRAST:
1. Interval development of punctate parenchymal hemorrhage 
within the right cerebellar hemisphere. 
2. Development of acute infarcts in the right occipital and left 
frontal 
lobes, new compared with yesterday. 
3. Punctate foci of white matter hyperdensity at the gray-white 
junction in the bifrontal lobes are stable in appearance, with 
MRI pending. 
     
___   ECHO:
No intracardiac source of embolism identified. Complex, 
non-mobile aortic atheroma. Mild aortic regurgitation. Small to 
moderate circumferential pericardial effusion without 
echocardiographic signs of tamponade.  
       
___   ORBITS PRE-MRI: Tiny metallic foreign body adjacent 
to the right mandibular ramus. 
       
___   CHEST (PORTABLE AP):
1. Mild pulmonary edema, which given the normal heart size may 
be neurogenic. 
2. Possible mediastinal and hilar adenopathy, and left upper 
lobe 
consolidation or mass should be reevaluated with conventional 
radiographs when feasible. 
          
___   CT HEAD W/O CONTRAST:
1. No definite acute intracranial process.  
  
2. Hypodense regions centered at the bihemispheric gray-white 
junction; in a patient with known cancer diagnosis, these are 
concerning for vasogenic edema related to underlying metastasis. 
 If feasible, and not recently performed elsewhere, enhanced MRI 
is recommended for further evaluation. 
  
3. Ethmoidal air cell opacification, and retained fluid in the 
___- and 
oropharynx. 
           
___   ECHO:
Very suboptimal image quality due to body habitus. Left 
ventricular systolic function is probably normal, a focal wall 
motion abnormality cannot be excluded. The right ventricle is 
not well seen. No significant valvular abnormality. Unable to 
assess pulmonary artery systolic pressures. Anterior fat pad 
seen - pericardial fluid not seen but could not be excluded. 
Negative bubble study, although suboptimal image quality 
precludes certainty about this finding.  
   
___   ECG:
Sinus rhythm. Probable intra-atrial conduction delay. Early 
precordial 
QRS transition. Low T wave amplitude is non-specific and may be 
within normal limits. Findings are non-specific. No previous 
tracing available for comparison.  
  
Rate PR  QRS QT/QTc  P QRS T 
76   160 96  400/428 0 46  66 
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with a PMH significant for stroke ___ 
years ago (reportedly affected L side of his body) and recent 
diagnosis of lung cancer last week s/p thoracentesis who 
presented to OSH with right hemiparesis. He was given tPA at OSH 
and transferred to ___. His current exam is notable for no 
response to commands or eye moving, intact brainstem reflexes 
and withdrawal of all extremities to noxious except for the 
right upper extremity, which did not move. While there is no 
evidence of stroke on the CT scan, right sided hemiparesis and 
aphasia could be from a left MCA stroke. This could have 
resulted from being off of his Plavix for the past few days due 
to his recent thoracentesis. It is also feasible that he had a 
seizure from a brain metastasis. He is now s/p tPA, though it is 
unclear if there was a noted improvement, his right arm remains 
paretic and he does withdraw his RLE now, but the exact defecits 
prior to receiving tPA are unknown at this time. Of note, he did 
also receive Cerbyx 1 gram at OSH. When he is stable, he will 
need an MRI of his head with contrast to evaluate if he had a 
stroke and also if there are brain mets. In the meanwhile, He 
was started on Keppra 500 mg bid for seizure prophylaxis. 
.
Palliative care was consulted wife and daughter understand 
gravity of situation. They are able to state he would not want 
to live without being able to talk or
eat. They would not want him to have a tracheostomy. They 
understand he will die from this stroke. They are both able to 
talk about the stroke in light of the cancer diagnosis and if he 
recovered he would then face cancer treatment and death from
cancer.
.
Dr. ___ was present.  Reviewed comfort focused care- all 
efforts will be made to ensure comfort- no treatments or 
monitoring that may cause distress. Medications to improve 
comfort. If his breathing is labored the nurses ___ 
re-position, suction only if necessary, administer medication 
such as morphine or Zyprexa.
.
All IVF and IV medications ( unless morphine needed) will be 
stopped.
.
Family will be able to visit whenever they wish. Daughter uses a 
wheelchair and needs PCA assist- she lives in ___ area so any 
d/c plans will need to be close to her.
.
Pt has been anointed by the priest. SW consulted to support the 
family. On ___, given the grim prognosis and his prior 
wishes, the goal of care of changed to maximize comfort 
measures.  Palliative care continued to follow the patient 
during this hospitalization and patient died during the early 
hours of ___.  His wife, ___ came in and declined 
autopsy.
 
Medications on Admission:
-Advair 250/50 1 puff bid
-Finasteride 5 mg daily
-Gabapentin 800 mg tid
-Lasix 40 mg daily
-Multivitamin daily
-Levothyroxine daily (dose unknown)
-Amlodipine 5 mg daily
-Fentanyl 50 mcg patch q3d
-Lisinopril 5 mg daily
-Lovastatin 80 mg daily
-Sertraline 50 mg daily
-Vit B12 1000 mg daily 
-Zolpidem 5 mg qhs
-Plavix 75 mg daily (has not taken past week)  

 
Discharge Medications:
1. olanzapine 5 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q6H (every 6 hours) as needed for 
restlessness.  
2. hyoscyamine sulfate 0.125 mg Tablet, Sublingual Sig: One (1) 
Tablet, Sublingual Sublingual QID (4 times a day) as needed for 
oral secretions / reflux.  
3. scopolamine base 1.5 mg Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q3D () as needed for secretions/reflux.  
4. acetaminophen 650 mg Suppository Sig: One (1) Suppository 
Rectal Q6H (every 6 hours) as needed for pain.  
5. morphine (PF) in D5W 100 mg/100 mL (1 mg/mL) Parenteral 
Solution Sig: ___ mg/hr Intravenous INFUSION (continuous 
infusion).
Disp:*100 mL* Refills:*2*

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
acute multiple territory strokes

 
Discharge Condition:
Passed away
 
Discharge Instructions:
None
 
Followup Instructions:
___